US05231102
a) Trans-5,7-dichloro-2-methoxycarbonyl-4-phenylaminocarbonylamino-1,2,3,4-tetrahydroquinoline
To a suspension of trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride (0.200 g, 0.642 mmol) in anhydrous dichloromethane (20 ml) under an atmosphere of nitrogen was added dry triethylamine (0.098 ml, 0.706 mmol) and the mixture was stirred until dissolution was complete. To this solution was then added phenyl isocyanate (0.077 ml, 0.706 mmol) and the resulting mixture was stirred at room temperature for 2 h. The solvent was removed under vacuum and the residue was partitioned between ethyl acetate (150 ml) and 1M aqueous citric acid (75 ml). The organic layer was successively washed with 1M aqueous citric acid (1×75 ml), saturated sodium bicarbonate solution (2×75 ml) and saturated brine (1×75 ml), then dried (MgSO4) and evaporated. The crude product was recrystallised from methanol to give the title compound as colourless crystals (0.185 g), m.p. 228°-229° C. (dec). δ (DMSO, 360 MHz) 1.67 (1H, ddd, J=12.7, 12.4 and 3.5 Hz, CHACHBHCCHD), 2.34 (1H, dm, J=12.7 Hz, CHACHBHCCHD), 3.73 (3H, s, CO2CH3), 4.00 (1H, dd, J=12.4 and 2.9 Hz, CH ACHBHCCHD), 4.94 (1H, m, CHACHBHCCHDNHCO), 6.53 (1H, d, J=6.4 Hz, CHDNHCONAr), 6.72 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.88-6.93 (3H, m, 6-H or 8-H, ArH and ArNH), 7.20-7.25 (2H, m, ArH) 7.39 (2H, d, J=8.0 Hz, ArH), 8.15 (1H, s, CHDNHCONHAr); m/e 393 (M+), 198 (100%, M-NHCONHPh, CO2CH3 and H); Found C, 54.76; H, 4.39; N, 10.48; C18H17Cl2N3O3 requires C, 54.84; H, 4.35; N, 10.66%.

reactant | trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride | 0.642 mmol, 0.200 g | Cl.N[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC
reactant | triethylamine | 0.706 mmol, 0.098 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.706 mmol, 0.077 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Trans-5,7-dichloro-2-methoxycarbonyl-4-phenylaminocarbonylamino-1,2,3,4-tetrahydroquinoline | 0.185 g | ClC1=C2[C@H](C[C@@H](NC2=CC(=C1)Cl)C(=O)OC)NC(=O)NC1=CC=CC=C1 | C18H17Cl2N3O3
